Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
nitroglycerin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy on ___

attach
 
Pertinent Results:
Admission labs:
===============
___ 01:45PM BLOOD WBC-15.2* RBC-3.37* Hgb-10.3* Hct-31.0* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-13.4 RDWSD-45.9 Plt ___
___ 01:45PM BLOOD Neuts-82.7* Lymphs-12.0* Monos-4.1* 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-12.58* AbsLymp-1.82 
AbsMono-0.63 AbsEos-0.03* AbsBaso-0.06
___ 03:19PM BLOOD ___ PTT-29.0 ___
___ 01:45PM BLOOD Glucose-370* UreaN-20 Creat-0.8 Na-141 
K-4.9 Cl-104 HCO3-23 AnGap-14
___ 07:18AM BLOOD Calcium-8.9 Phos-4.3 Mg-2.2

Discharge labs:
===============
___ 06:40AM BLOOD WBC-9.3 RBC-3.19* Hgb-9.6* Hct-29.4* 
MCV-92 MCH-30.1 MCHC-32.7 RDW-13.3 RDWSD-44.4 Plt ___
___ 06:40AM BLOOD ___ PTT-28.4 ___
___ 06:40AM BLOOD Glucose-178* UreaN-16 Creat-0.7 Na-141 
K-5.2 Cl-104 HCO3-27 AnGap-10
___ 06:40AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.3

Flex sig ___:
Solid brown stool and small amount of old blood seen in the 
rectum. No bleeding source of fresh blood was seen. 
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================  
Mr. ___ is a ___ M with PMH CAD, DMII, HTN, HLD, abdominal 
aortic aneurysm, and elevated PSA s/p prostate needle biopsy 
___ with BRBPR since ___ with intermittent lightheadedness 
and admitted to medicine for further management.

TRANSITIONAL ISSUES:
====================
[] Repeat CBC 1 week after discharge to ensure stable 
hemoglobin. Discharge Hg 9.6
[] Pt did not require any blood transfusions
[] His blood pressure remained within goal despite not receiving 
his home BP meds. He was restarted on his home carvedilol on 
discharge. Please reassess his BP control and restart his 
medications as necessary. 

ACUTE/ACTIVE PROBLEMS:  
======================
#BRBPR
The patient underwent Trans-rectal US guided prostate biopsies 
on ___. After the procedure he initially had some light 
bleeding, which worsened on ___ after the patient had done 
some heavy lifting. He had several days of continued heavy 
BRBPR, prior to admission. On admission, Hg stable around 10 and 
patient was not given any blood. The bleeding improved on its 
own and his last bloody BM was ___. On ___ he was taken for 
flexible sigmoidoscopy which showed no active bleeding.  He was 
temporarily started on PO pantoprazole BID, but this was stopped 
prior to discharge due to low suspicion for upper GI source. 

CHRONIC/STABLE PROBLEMS:
========================  
#Elevated PSA s/p prostate needle biopsy ___
#BPH
The patient is followed by urology as outpatient. Had biopsy in 
___, path with no malignancy identified. He was continued on 
home Tamsulosin while inpatient. 

#T2DM
His home meds include Jardiance (empagliflozin) 25 mg daily, 
metformin ER 1000 mg BID, glipizide ER 10 mg BID. While 
inpatient, his diabetes was managed with an insulin sliding 
scale, but he was instructed to resume his home medications 
after discharge. 

#HTN
His home medications include amlodipine 10 mg daily, lisinopril 
40 mg daily, carvedilol 25 mg BID, spironolactone 12.5 mg daily. 
His home medications were held during this admission due to 
concern for hypotension from continued bleeding and because his 
blood pressures remained at goal. He will be instructed to 
follow up with his primary care provider prior to restarting his 
blood pressure medications. 

#Abdominal aortic aneurysm
He is followed by outpatient vascular surgery, most recently 
seen on ___ with ultrasound showing AAA that is stable at 
near 4 cm. He is planned for follow up  Blood pressure 
management per above.  

#HX of CAD s/p PCI
#HLD
He was continued on his home atorvastatin, ASA.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. CARVedilol 25 mg PO BID 
4. Doxazosin 4 mg PO HS 
5. Jardiance (empagliflozin) 25 mg oral daily 
6. GlipiZIDE XL 10 mg PO BID 
7. Lisinopril 40 mg PO DAILY 
8. Spironolactone 12.5 mg PO DAILY 
9. Tamsulosin 0.4 mg PO QHS 
10. Aspirin 81 mg PO DAILY 
11. Viagra (sildenafil) 100 mg oral PRN erectile dysfunction 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  CARVedilol 25 mg PO BID  
4.  GlipiZIDE XL 10 mg PO BID  
5.  Jardiance (empagliflozin) 25 mg oral daily  
6.  Tamsulosin 0.4 mg PO QHS  
7.  Viagra (sildenafil) 100 mg oral PRN erectile dysfunction  
8. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until you are seen by your primary care 
physician. 
9. HELD- Doxazosin 4 mg PO HS  This medication was held. Do not 
restart Doxazosin until you are seen by your primary care 
physician. 
10. HELD- Lisinopril 40 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you are seen by your primary 
care physician. 
11. HELD- Spironolactone 12.5 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until you are seen by your 
primary care physician. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Iatrogenic hematochezia

Secondary diagnoses:
Type 2 DM
CAD
BPH
AAA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having bleeding with bowel 
movements and with urination after your prostate biopsy. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your blood counts were monitored and were found to be stable. 
- You had a procedure, called a flexible sigmoidoscopy, which 
showed that the bleeding had resolved, however there was old 
blood seen. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

We wish you the best! 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___